US04153719
(d) 4-(4-Methoxybenzyl)cyclohexylmethyl iodide
A mixture of 17.5 g. (0.065 m) of 4-(4-methoxybenzyl)cyclohexylmethyl bromide, 11 g. (0.073 m) of sodium iodide and 100 ml. of acetone was heated under reflux for two hours. The solvent was removed, the residue partitioned between water and ether, and the ether layer dried and concentrated to give 19.8 g. of oil, used directly in the next reaction.

reactant | 4-(4-methoxybenzyl)cyclohexylmethyl bromide | COC1=CC=C(CC2CCC(CC2)CBr)C=C1 | C15H21BrO
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 4-(4-Methoxybenzyl)cyclohexylmethyl iodide | COC1=CC=C(CC2CCC(CC2)CI)C=C1 | C15H21IO
